US04600758
(a) 4-Chloro-5-(sulfamoyl)-1,2-benzenedicaboxamide
A solution of 4-chloro-5-sulfamoylphthalimide (21.3 g., 0.076 mole) and 250 ml. of liquid ammonia was stirred at room temperature while permitting ammonia to evaporate. Water was added to residual material, the pH adjusted to 7 with hydrochloric acid and precipitated material collected to provide 14.5 g. (63%) of hydrated 4-chloro-5-(sulfamoyl)-1,2-benzenedicarboxamide, m.p. 270°-275° C.

reactant | 4-chloro-5-sulfamoylphthalimide | 0.076 mole, 21.3 g | ClC=1C=C2C(C(=O)NC2=O)=CC1S(N)(=O)=O | C8H5ClN2O4S
reactant | ammonia | N | H3N
product | 4-Chloro-5-(sulfamoyl)-1,2-benzenedicaboxamide | ClC=1C=C(C(=CC1S(N)(=O)=O)C(=O)N)C(=O)N | C8H8ClN3O4S
